US04975538
cis-(±)-4-(Hydroxymethyl)-3-[((phenylmethoxy)-carbonyl)amino]-2-azetidinone
To a stirred solution of zinc chloride (23.2 g) in anhydrous tetrahydrofuran (300 ml) at 0° C. is added sodium borohydride (13.8 g) and the mixture is allowed to warm to room temperature and is stirred overnight. To the mixture is added cis-(±)-4-(methoxycarbonyl)-3-[((phenylmethoxy)carbonyl)amino]-2-azetidinone (39.2 g) and the reaction mixture is slowly heated to 65° C. and stirred at that temperature for 2 hours. The reaction mixture is cooled to 0° C. and 6N hydrochloric acid (200 ml) is added dropwise with stirring. The mixture is poured into ethyl acetate (1 l) and the organic layer is taken. The aqueous layer is saturated with sodium chloride and re-extracted with ethyl acetate (200 ml). The combined organic layer is washed with water (200 ml) and with 200 ml of brine twice and dried over anhydrous sodium sulfate. The solvent is concentrated under reduced pressure to afford a yellow oil which is purified by column chromatography on silica gel (ethyl acetate as eluent) to obtain 24.3 g of the title product. Physical characteristics are as follows:

reactant | sodium borohydride | 13.8 g | [BH4-].[Na+]
reactant | cis-(±)-4-(methoxycarbonyl)-3-[((phenylmethoxy)carbonyl)amino]-2-azetidinone | 39.2 g | COC(=O)[C@@H]1[C@@H](C(N1)=O)NC(=O)OCC1=CC=CC=C1 | C13H14N2O5
reactant | hydrochloric acid | 6N, 200 ml | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 23.2 g | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
product | cis-(±)-4-(Hydroxymethyl)-3-[((phenylmethoxy)-carbonyl)amino]-2-azetidinone | 24.3 g | OC[C@@H]1[C@@H](C(N1)=O)NC(=O)OCC1=CC=CC=C1 | C12H14N2O4
